US09315521B2
To a solution of LDA (2 M solution in THF/heptane/ethylbenzene, 2.78 g, 12.97 mL, 25.95 mmol) in anhydrous THF (20 mL) under nitrogen atmosphere cooled to −78° C. was added a solution of the 3-bromo-5-chloropyridine (5.0 g, 25.98 mmol) in anhydrous THF (40 mL) at −78° C. The reaction mixture was allowed to stir at the same temperature for 45 minutes. Then, a solution of chloro(ethoxy)methanone (28.19 g, 259.7 mmol) was added slowly over 15 minutes. After stirring for 20 minutes, the reaction mixture was quenched with saturated NaHCO3 solution. The reaction mixture was extracted into ethyl acetate (3×100 mL), and the combined organic layer was washed with water and brine. The organic layer was separated, dried over anhydrous sodium sulfate, and filtered. The filtrate was evaporated, and the residue was purified through CombiFlash using 0-10% ethyl acetate in hexane to provide ethyl 3-bromo-5-chloropyridine-4-carboxylate as a pale yellow oil (5.84 g, 85% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.35 (t, 3H), 4.45 (q, 2H), 8.82 (s, 1H), 8.87 (s, 1H); M+265.5.

reactant | LDA | 25.95 mmol, 2 M, 12.97 mL, 2.78 g | [Li+].CC(C)[N-]C(C)C
reactant | 3-bromo-5-chloropyridine | 25.98 mmol, 5.0 g | BrC=1C=NC=C(C1)Cl | C5H3BrClN
reactant | chloro(ethoxy)methanone | 259.7 mmol, 28.19 g | ClC(=O)OCC | C3H5ClO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | ethyl 3-bromo-5-chloropyridine-4-carboxylate | 5.84 g, 85% yield | BrC=1C=NC=C(C1C(=O)OCC)Cl | C8H7BrClNO2
